US07834002B2
To 20 mL of absolute ethanol, 250 mg of metallic sodium was added in small portions. After dissolved completely, 760 mg of thiourea was added to the above solution, and the mixture was stirred at room temperature for 1 hour. To the reaction, 2.11 g of N-[4-(2,2-dicyanovinyl)phenyl]acetamide was added, and the mixture was heated to reflux for 3 hours. Then, the solvent was removed under reduced pressure from the reaction mixture, the residue was dissolved in 30 mL of water. In addition, the mixture was acidified by adding acetic acid in small portions, thereto 30 mL of ethyl acetate was added and then the solution was stirred overnight. Filtration of the precipitated material gave 1.2 g of N-[4-(6-amino-5-cyano-2-mercapto-2,3-dihydropyrimidin-4-yl)phenyl]acetamide as a white powder.

reactant | sodium | 250 mg | [Na] | Na
reactant | thiourea | 760 mg | NC(=S)N | CH4N2S
reactant | N-[4-(2,2-dicyanovinyl)phenyl]acetamide | 2.11 g | C(#N)C(=CC1=CC=C(C=C1)NC(C)=O)C#N | C12H9N3O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-[4-(6-amino-5-cyano-2-mercapto-2,3-dihydropyrimidin-4-yl)phenyl]acetamide | 1.2 g | NC=1C(=C(NC(N1)S)C1=CC=C(C=C1)NC(C)=O)C#N | C13H13N5OS
